US07160887B1
A mixture of 4-(2-thiazolyl)benzaldehyde (4.6 g, 24 mmol), sodium chlorite (5.5 g, 61 mmols), sodium dihydrogenphosphate (3.2 g, 27 mmols), 2-methyl-2-butene (8.6 g, 120 mmols), tert-butanol (40 ml), tetrahydrofuran (40 ml) and water (20 ml) was stirred at room temperature for 3 hours. The mixture was poured into 1 N hydrochloric acid, and the precipitate formed was taken out through filtration and dried. Thus was obtained a solid of 4-(2-thiazolyl)benzoic acid (4.0 g, 79%).

reactant | 4-(2-thiazolyl)benzaldehyde | 24 mmol, 4.6 g | S1C(=NC=C1)C1=CC=C(C=O)C=C1 | C10H7NOS
reactant | sodium chlorite | 61 mmols, 5.5 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 27 mmols, 3.2 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 120 mmols, 8.6 g | CC(C)=CC | C5H10
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tert-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | 4-(2-thiazolyl)benzoic acid | 4.0 g, 79% | S1C(=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H7NO2S
